US06440956B1
(a) 4-Phthalimidomethylbenzoic acid
A mixture of 10 g of 4-aminomethylbenzoic acid, 14.5 g of carbethoxyphthalimide, 9.2 ml of triethylamine and 140 ml of tetrahydrofuran is maintained for 72 hours at reflux temperature. The precipitate formed is isolated at room temperature; after washing with an aqueous acidic solution and drying, 14.5 g of product are obtained. M.p.=264° C.

reactant | 4-aminomethylbenzoic acid | 10 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | carbethoxyphthalimide | 14.5 g | C(=O)(OCC)C1=C2C(C(=O)NC2=O)=CC=C1 | C11H9NO4
reactant | triethylamine | 9.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 4-Phthalimidomethylbenzoic acid | 14.5 g | C1(C=2C(C(N1CC1=CC=C(C(=O)O)C=C1)=O)=CC=CC2)=O | C16H11NO4
